US04839080
In a container, the acids, caustic soda and a solubilizer are introduced and thoroughly mixed while the distilled water is added at room temperature. The temperature of the mixture is then raised to 60°-65° C. and the entire blend is stirred for thirty minutes. Thereafter, the sodium-N-methyl taurate, lauric DEA, sodium lauroyl sarcosinate, glycerine, HEEDTA, EDTA (Na3), BHA and BHT are added with continued stirring and the blend is cooled to 40° C. Povidone-iodine is added followed by q.s. citric acid to produce a pH of 8.6 to 8.8.

reactant | caustic soda | [OH-].[Na+]
reactant | sodium lauroyl sarcosinate | N(C)CC(=O)OC(CCCCCCCCCCC)=O.[Na]
reactant | HEEDTA | C(CN(CC(=O)O)CC(=O)O)N(CCO)CC(=O)O | C10H18N2O7
reactant | EDTA | C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C10H16N2O8
solvent | glycerine | OCC(O)CO | C3H8O3
solvent | water | O | H2O
product | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
